US08735384B2
A vial was charged with 1-bromo-2-iodobenzene (627 μL, 5 mmol), neopentyl alcohol (4.85 g, 55.0 mmol), copper(I) iodide (95 mg, 0.500 mmol), 1,10-phenanthroline (180 mg, 1.000 mmol) and cesium carbonate (2.28 g, 7.00 mmol). The vial was sealed under air atmosphere and heated to 100° C. for 12 h. The reaction mixture was cooled to RT and filtered through a pad of silica gel. The silica gel was washed with Et2O. The filtrate was concentrated and the residue was purified by column chromatography (100% hexanes) to yield the 1-bromo-2-(neopentyloxy)benzene as a colorless oil.

reactant | 1-bromo-2-iodobenzene | 5 mmol, 627 μL | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | neopentyl alcohol | 55.0 mmol, 4.85 g | C(C(C)(C)C)O | C5H12O
reactant | 1,10-phenanthroline | 1.000 mmol, 180 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 7.00 mmol, 2.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) iodide | 0.500 mmol, 95 mg | [Cu]I
product | 1-bromo-2-(neopentyloxy)benzene | BrC1=C(C=CC=C1)OCC(C)(C)C | C11H15BrO
